US04742165
In 20 ml of ethanol was dissolved 0.70 g of 2-(4-benzylpiperazino)-6-ethyl-5-oxo-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine. Thereto was added 10% Pd-C, and the resulting mixture was stirred at 60° C. for 4 hours in a hydrogen atmosphere. After having been allowed to cool, the mixture was filtered to remove the catalyst and the filtrate was concentrated to obtain 0.50 g of 6-ethyl-5-oxo-2-piperazino-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine as a crystal with an yield of 96%. The crystal was purified by immersion using ethyl acetate.

reactant | 2-(4-benzylpiperazino)-6-ethyl-5-oxo-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 0.70 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1N=CC2=C(N1)CCN(C2=O)CC | C20H25N5O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd-C | [Pd] | Pd
product | 6-ethyl-5-oxo-2-piperazino-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 0.50 g, yield of 96% | C(C)N1C(C2=C(N=C(N=C2)N2CCNCC2)CC1)=O | C13H19N5O
